US06140332
For the preparation of the HCl salt, 600 mg of 4-(3-chloro-anilino)-5-methyl-6-(4-hydroxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidine hydrobromide are dissolved while hot in 50 ml of ethyl acetate and at RT adjusted to pH 9.5 with 1 N NaOH and the organic phase is washed twice with water. The organic phase is dried and concentrated by evaporation, and the residue is dissolved in 30 ml of ethanol, and a 5N (=5 normal) ethanolic HCl solution is added thereto. At 0° C., with stirring and the addition of diethyl ether, 4-(3-chloro-anilino)-5-methyl-6-(4-hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine hydrochloride is obtained in the form of a colourless powder having a m.p. of 280-282° C.

reactant | HCl | Cl | ClH
reactant | 4-(3-chloro-anilino)-5-methyl-6-(4-hydroxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidine hydrobromide | 600 mg | Br.ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3C)C3=CC=C(C=C3)O)C=CC1
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 4-(3-chloro-anilino)-5-methyl-6-(4-hydroxyphenyl)-7H-pyrrolo[2,3-d]pyrimidine hydrochloride | Cl.ClC=1C=C(NC=2C3=C(N=CN2)NC(=C3C)C3=CC=C(C=C3)O)C=CC1 | InChI=1S/C19H15ClN4O.ClH/c1-11-16-18(23-14-4-2-3-13(20)9-14)21-10-22-19(16)24-17(11)12-5-7-15(25)8-6-12;/h2-10,25H,1H3,(H2,21,22,23,24);1H
